US04343811
Ethyl 2-[2-(4-acetamino-phenyl)-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoate
The above compound was prepared from 2-(4-acetamino-phenyl)-1-propyl-1H-indole-5-ol and ethyl 2-bromo-2-methyl-propanoate using a procedure analoguous to that of Example 10.

reactant | 2-(4-acetamino-phenyl)-1-propyl-1H-indole-5-ol | N(C(=O)C)C1=CC=C(C=C1)C=1N(C2=CC=C(C=C2C1)O)CCC | C19H20N2O2
reactant | ethyl 2-bromo-2-methyl-propanoate | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | Ethyl 2-[2-(4-acetamino-phenyl)-1-propyl-1H-indole-5-yloxy]-2-methyl-propanoate | N(C(=O)C)C1=CC=C(C=C1)C=1N(C2=CC=C(C=C2C1)OC(C(=O)OCC)(C)C)CCC | C25H30N2O4
